US05106842
a. (3S,4R)-3-Benzyloxycarbonylamino-4[-2-(2-furyl)ethyl]azetidin-2-one
A solution of benzyl chloroformate (5.4 mL, 0.0378 mol) in methylene chloride (10 mL) was added dropwise during 0.25 hr to a stirred, cooled (ice/H2O bath) of (3S,4R)-3-amino-4-[2-(2-furyl)ethyl]azetidin-2-one (6.82 g, 0.0378 mol) and diisopropylethylamine (6.6 mL, 0.0378 mol) in methylene chloride (75 mL). Stirring was continued with cooling for 2 hr and then for 0.5 hr at ambient temperatures. The mixture was diluted with additional methylene chloride and was sequentially washed with H2O, dilute hydrochloric acid, H2O, dilute aqueous NaHCO3, H2O and saturated NaCl. The solution was dried over MgSO4 and concentrated. The residue was crystallized from ethyl acetate to afford the title compound (7.05 g, 60% yield) as an off-white solid.

reactant | benzyl chloroformate | 0.0378 mol, 5.4 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (3S,4R)-3-amino-4-[2-(2-furyl)ethyl]azetidin-2-one | 0.0378 mol, 6.82 g | N[C@@H]1C(N[C@@H]1CCC=1OC=CC1)=O | C9H12N2O2
reactant | diisopropylethylamine | 0.0378 mol, 6.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-Benzyloxycarbonylamino-4[-2-(2-furyl)ethyl]azetidin-2-one | 7.05 g, 60% yield | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@@H]1CCC=1OC=CC1)=O | C17H18N2O4
